US04145432
To a suspended solution of diethyl 2-methyl-4-(3-nitrophenyl)-6-formyl-1,4-dihydropyridine-3,5-dicarboxylate (233 mg) in ethanol (10 ml) was added sodium borohydride (22.7 mg) at 0° to 5° C under stirring and this mixture was further stirred at about 5° C. for an hour and 10 minutes. After the reaction, the mixture was adjusted to pH 4 to 5 with 0.1N-hydrochloric acid, and then the solvent was removed under reduced pressure. The residue was extracted with ethyl acetate and the extract was washed with water and dried over magnesium sulfate. The extract was concentrated under reduced pressure and the residue was crystallized by treating with a mixture of diethyl ether and n-hexane. The precipitated crystals were collected by filtration, dried and recrystallized from a mixture of diethyl ether and n-hexane to give crystals of diethyl 2-methyl-4-(3-nitrophenyl)-6-hydroxymethyl-1,4-dihydropyridine-3,5-dicarboxylate (152 mg), m.p. 141° to 142.5° C.

reactant | diethyl 2-methyl-4-(3-nitrophenyl)-6-formyl-1,4-dihydropyridine-3,5-dicarboxylate | 233 mg | CC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C=O | C19H20N2O7
reactant | sodium borohydride | 22.7 mg | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | diethyl 2-methyl-4-(3-nitrophenyl)-6-hydroxymethyl-1,4-dihydropyridine-3,5-dicarboxylate | 152 mg | CC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)CO | C19H22N2O7
